US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 40 mg, 0.093 mmol) and (R)-2-aminopropanenitrile (Int-X, 13.00 mg, 0.185 mmol) were dissolved in DMF (1 mL). 4-Methylmorpholine (37.5 mg, 0.371 mmol) and HATU (45.8 mg, 0.121 mmol) were added. After stirring 1 h, the mixture was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×250 mm, gradient elution with Method 2—CH3CN/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 35 min, 20 mL/min, 220 nM, product retention=28.5 min) to provide single enantiomer N-((R)-1-cyanoethyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (27 mg, 0.055 mmol, 59.6% yield): [M+H]+=484.0; 1H NMR (400 MHz, methanol-d4) δ ppm 8.93 (1 H, d, J=7.70 Hz), 8.13-8.24 (2 H, m), 7.50-7.80 (7 H, m), 5.17 (1 H, s), 4.86-4.91 (1 H, m), 1.56 (3 H, d, J=7.04 Hz); HPLC peak RT=9.9 min (Method A).

reactant | 2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.093 mmol, 40 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | (R)-2-aminopropanenitrile | 0.185 mmol, 13.00 mg | N[C@@H](C#N)C | C3H6N2
reactant | 4-Methylmorpholine | 0.371 mmol, 37.5 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.121 mmol, 45.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-((R)-1-cyanoethyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.055 mmol, 27 mg, 59.6% yield | C(#N)[C@@H](C)NC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O | C23H16F3N5O4
